US04954498
8,8-Dimethyl-2-phenyl-5,6,7,8-tetrahydro-lH-imidazo-[4,5-g]quinolin-6-one
3.0 g. 6,7-diamino-4,4-dimethyl-1,2,3,4-tetrahydroquinolin-2-one and 1.5 ml. benzaldehyde were stirred for 20 hours in 50 ml. ethanol and 5 ml. glacial acetic acid. Half of the solvent was removed in a vacuum and the remainder was mixed with 50 ml. water and filtered off with suction. After recrystallisation from ethyl acetate, there were obtained 2.4 g. of the title compound; m.p. 296 -298° C.

reactant | 6,7-diamino-4,4-dimethyl-1,2,3,4-tetrahydroquinolin-2-one | NC=1C=C2C(CC(NC2=CC1N)=O)(C)C | C11H15N3O
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | ethanol | C(C)O | C2H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 8,8-Dimethyl-2-phenyl-5,6,7,8-tetrahydro-lH-imidazo-[4,5-g]quinolin-6-one | CC1(CC(NC=2C=C3C(=CC12)NC(=N3)C3=CC=CC=C3)=O)C | C18H17N3O
